US05059609
trans-6-(6-Methyl-2-pyridyl)methoxy-3-(3-pyridyl)methyl-4-chromanol
By the method of Example 5, 0.50 g (1.95 mmol) of trans-3-(3-pyridylmethyl)-4,6-chromandiol and 400 mg (2.15 mmol) of 2-(bromomethyl)-6-methyl pyridine were converted to present title product, purified by flash chromatography on silica gel using ethyl acetate as eluant to yield purified title product, o.14 g (20%), m.p. 66°-68° C.

reactant | trans-3-(3-pyridylmethyl)-4,6-chromandiol | 1.95 mmol, 0.50 g | N1=CC(=CC=C1)C[C@@H]1COC2=CC=C(C=C2[C@H]1O)O | C15H15NO3
reactant | 2-(bromomethyl)-6-methyl pyridine | 2.15 mmol, 400 mg | BrCC1=NC(=CC=C1)C | C7H8BrN
product | trans-6-(6-Methyl-2-pyridyl)methoxy-3-(3-pyridyl)methyl-4-chromanol | CC1=CC=CC(=N1)COC=1C=C2[C@H]([C@@H](COC2=CC1)CC=1C=NC=CC1)O | C22H22N2O3
